US07777047B2
6-chloro-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide
To a mixture of 6-chloro-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (0.69 g), 1H-1,2,3-benzotriazol-1-ol (0.31 g) and N,N-dimethylformamide (10 ml) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.44 g) at room temperature, and the mixture was stirred at 50° C. for 20 min, and allowed to cool to room temperature. 28% Aqueous ammonia (0.30 ml) was added, and the reaction mixture was stirred at room temperature for 2 hr, and acidified with 10% aqueous citric acid solution. The resulting crystals were filtrated, washed with water, and dried to give the title compound (0.70 g, quantitative) as colorless crystals. melting point 225-226° C. (decomposition).

reactant | 6-chloro-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 0.69 g | ClC1=CC=C2C=C(NC2=C1N(S(=O)(=O)C=1SC=CC1)C)C(=O)O | C14H11ClN2O4S2
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.31 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.44 g | Cl.CN(CCCN=C=NCC)C
reactant | ammonia | 0.30 ml | N | H3N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-chloro-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 0.70 g | ClC1=CC=C2C=C(NC2=C1N(S(=O)(=O)C=1SC=CC1)C)C(=O)N | C14H12ClN3O3S2
